US20010027196A1
2-Amino-4-furan-2-yl-6-(2-isopropylamino-ethylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and N-isopropylethylenediamine in DME. ES-MS m/e (%): 287 (M+H+, 100), 228 ([M+H-iPrNH2]+, 40).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N-isopropylethylenediamine | C(C)(C)NCCN | C5H14N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(2-isopropylamino-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCCNC(C)C | C14H18N6O
